US04579961
Synthesis of methyl β-(trichlorogermyl)hydrocinnamate (8)
A mixture of 36.0 g (0.2 mol) of trichlorogermane and 32.4 g (0.2 mol) of methyl cinnamate was stirred for 2 hours and then distilled in vacuum to obtain 56.2 g of a fraction, b.p. 148°. Yield 82.2%.

reactant | trichlorogermane | 0.2 mol, 36.0 g | Cl[GeH](Cl)Cl | Cl3GeH
reactant | methyl cinnamate | 0.2 mol, 32.4 g | C(C=CC1=CC=CC=C1)(=O)OC | C10H10O2
product | methyl β-(trichlorogermyl)hydrocinnamate | Yield 82.2% | Cl[Ge](C(CC(=O)OC)C1=CC=CC=C1)(Cl)Cl | C10H11Cl3GeO2
